US07678815B2
A solution of aminocyanacetic acid ethyl ester (1.00 g, 7.80 mmol) in ethyl acetate (16.00 ml) was cooled to 0° C. and treated with dimethylaminopyridine (0.09 g, 0.78 mmol) and dicyclohexylcarbodiimide (1.93 g, 9.36 mmol). 3-Methoxy-propionic acid (0.81 g, 7.80 mmol) was added portionwise. After completed addition, the mixture was stirred at 0° C. for 1 h) then at room temperature for 3 h. The precipitated dicyclohexylurea was filtered off and the mother liquors washed with water, dried over sodium sulphate and evaporated. The residue was purified by trituration in diisopropylether to yield cyano-(3-methoxy-propionylamino)-acetic acid ethyl ester (1.27 g, 76%), MS (ISP): m/e=215.3 (M+H+).

reactant | aminocyanacetic acid ethyl ester | 7.80 mmol, 1.00 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | dimethylaminopyridine | 0.78 mmol, 0.09 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 9.36 mmol, 1.93 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-Methoxy-propionic acid | 7.80 mmol, 0.81 g | COCCC(=O)O | C4H8O3
solvent | ethyl acetate | 16.00 ml | C(C)(=O)OCC | C4H8O2
product | cyano-(3-methoxy-propionylamino)-acetic acid ethyl ester | 1.27 g, 76% | C(C)OC(C(NC(CCOC)=O)C#N)=O | C9H14N2O4
